US03952024
1-Furfuryl-2-acetyl-pyrrole was prepared starting from 1-furfuryl-pyrrole described by Reichstein in Helv. 15, 1450 (1932) as well as Gianturco et al. in Tetrahedron 20, 1763 (1964). Acetylation by reaction of the Grignard intermediate with acetyl chloride [cf. Chem. Ber. 47, 1416 (1914)] led to the desired ketone. (A small amount of the 3-isomer was also obtained, separable by fractional distillation). The product boils at 100°-102°C./0.03 mm Hg. and crystallizes on standing. Recrystallization from a mixture of methylene dichloride and petroleum ether gave a white crystalline product with a m.p. of 42°-43°C.

reactant | 1-furfuryl-pyrrole | C(C1=CC=CO1)N1C=CC=C1 | C9H9NO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 1-Furfuryl-2-acetyl-pyrrole | C(C1=CC=CO1)N1C(=CC=C1)C(C)=O | C11H11NO2
